US07091214B2
4-Methoxybenzyl 4-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butane-1-sulfonamide (1.16 g, 2.0 mmol) and pyridine-3-boronic acid (0.30 g, 2.4 mmol) were coupled according to the method described in Part J of Example 1. The reaction was heated at reflux for 14 hours, at which time additional pyridine-3-boronic acid (0.3 equivalent) was added and the reaction was heated for an additional five hours. The work-up procedure used in Part F of Examples 125–135 was followed. The crude product was purified by column chromatography on silica gel (eluting with chloroform:CMA in a gradient from 100:0 to 80:20) and then triturated with methanol, isolated by filtration, and dried for 20 hours under high vacuum at 140° C. to provide 0.62 g of 4-methoxybenzyl 4-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]butane-1-sulfonamide as a beige powder, mp 230–231.5° C.

reactant | 4-Methoxybenzyl 4-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butane-1-sulfonamide | 2.0 mmol, 1.16 g | COC1=CC=C(CC(CCCN2C(=NC=3C(=NC=4C=C(C=CC4C32)Br)N)COCC)S(=O)(=O)N)C=C1 | C25H30BrN5O4S
reactant | pyridine-3-boronic acid | 2.4 mmol, 0.30 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | pyridine-3-boronic acid | 0.3 equivalent | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 4-methoxybenzyl 4-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]butane-1-sulfonamide | 0.62 g | COC1=CC=C(CC(CCCN2C(=NC=3C(=NC=4C=C(C=CC4C32)C=3C=NC=CC3)N)COCC)S(=O)(=O)N)C=C1 | C30H34N6O4S
